US06949579B2
930 mg of 3-benzyloxyphenylboronic acid, 1.24 g of caesium fluoride, 31.5 mg of 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)diphenyl and 13.5 mg of palladium acetate are successively added to 1 g of N-[6-chloro-1-[[2-(trimethylsilyl)ethoxy)methyl]-1H-indazol-3-yl)butanamide, prepared in Example 25, and the mixture is refluxed for 18 hours. The reaction medium is filtered through a sinter funnel packed with Celite and 75 cm3 of ethyl acetate are added to the filtrate. The organic phase is washed with 25 cm3 of saturated sodium chloride solution, separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The crude product obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate gradient (90/10 to 75/25 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); 1.1 g of N-[6-[3-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy)methyl]-1H-indazol-3-yl]butanamide are obtained in the form of an oil in a purity of 80%.

reactant | 3-benzyloxyphenylboronic acid | 930 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)B(O)O | C13H13BO3
reactant | caesium fluoride | 1.24 g | [F-].[Cs+]
reactant | N-[6-chloro-1-[[2-(trimethylsilyl)ethoxy)methyl]-1H-indazol-3-yl)butanamide | 1 g | ClC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26ClN3O2Si
catalyst | palladium acetate | 13.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[6-[3-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy)methyl]-1H-indazol-3-yl]butanamide | 1.1 g | C1(=CC=CC=C1)COC=1C=C(C=CC1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C30H37N3O3Si
